US04132702
10.0 g (0.014 mol) of 1-chloro-3,5-di-[3-(3,5-di-tert.butyl- 4-hydroxyphenyl)-2,2-dimethylpropylamino]-s-triazine (the product of Example 64) and 2.91 g (0.044 mol) of dodecylmercaptan are initially introduced into 50 ml of acetone and 0.58 g (0.0144 mol) of sodium hydroxide, dissolved in 1 ml of water, is added at room temperature. The mixture is then heated to the point of reflux and is stirred at this temperature for 5 hours It is then cooled, insoluble matter is filtered off and the filtrate is concentrated completely. The residue is purified through a silica gel column using toluene:methanol (98:2) as the migrating agent. The 1-dodecylmercapto-3,5-di-[3-(3,5-di-tert.butyl-4-hydroxyphenyl)-2,2-dimethylpropylamino]-s-triazine obtained in this way is produced as a yellowish resin. (Stabiliser No. 68).

reactant | 1-chloro-3,5-di-[3-(3,5-di-tert.butyl- 4-hydroxyphenyl)-2,2-dimethylpropylamino]-s-triazine | 0.014 mol, 10.0 g | ClN1CN(CN(C1)NCC(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)(C)C)NCC(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)(C)C | C41H70ClN5O2
reactant | dodecylmercaptan | 0.044 mol, 2.91 g | C(CCCCCCCCCCC)S | C12H26S
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | sodium hydroxide | 0.0144 mol, 0.58 g | [OH-].[Na+]
solvent | water | 1 ml | O | H2O
product | 1-dodecylmercapto-3,5-di-[3-(3,5-di-tert.butyl-4-hydroxyphenyl)-2,2-dimethylpropylamino]-s-triazine | C(CCCCCCCCCCC)SN1CN(CN(C1)NCC(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)(C)C)NCC(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)(C)C | C53H95N5O2S
